US06740712B2
tert-Butyl-4-[3-bromo-5-(trifluoromethyl)-phenyl]-1-piperazine Carboxylate
A solution of 1-(3-bromo-5-trifluoromethyl-phenyl)-piperazine (115 g, 0.37 moles) in THF (550 ml) was added dropwise to a solution of di-tert-butyl dicarbonate (81.2 g, 0.37 moles) in THF (250 ml) at 20° C. The reaction mixture was stirred overnight at room temperature. The reaction mixture was taken to dryness and from the residue, after crystallisation from water/THF, the title compound was obtained.

reactant | 1-(3-bromo-5-trifluoromethyl-phenyl)-piperazine | 0.37 moles, 115 g | BrC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12BrF3N2
reactant | di-tert-butyl dicarbonate | 0.37 moles, 81.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 550 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | tert-Butyl-4-[3-bromo-5-(trifluoromethyl)-phenyl]-1-piperazine Carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)Br | C16H20BrF3N2O2
